US06495701B1
Step A. Synthesis of 2-(2-bromoethoxy)carbazole
A mixture of 2-hydroxycarbazole (30 g; mfd. by Aldrich), potassium carbonate (113.1 g; mfd. by KANTO CHEMICAL) and 1,2-dibromoethane (211 mL; mfd. by TOKYO KASEI KOGYO) in 2-butanone (165 mL; mfd. by Wako Pure Chemical Industries) was stirred vigorously at a reflux temperature for 28 hours. The reaction solution was poured into water (1050 mL) all at once and stirred. The precipitated crystal obtained by filtration was washed with water (1 L) and 2-propanol (250 mL), and then dried under reduced pressure at room temperature to give the title compound (43.43 g) as a white solid.

reactant | 2-hydroxycarbazole | 30 g | OC1=CC=2NC3=CC=CC=C3C2C=C1 | C12H9NO
reactant | potassium carbonate | 113.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | 211 mL | BrCCBr | C2H4Br2
reactant | water | 1050 mL | O | H2O
solvent | 2-butanone | 165 mL | CC(CC)=O | C4H8O
product | 2-(2-bromoethoxy)carbazole | 43.43 g | BrCCOC1=CC=2NC3=CC=CC=C3C2C=C1 | C14H12BrNO
